US08426420B2
v) (S)-5-(3-Butoxycarbonylamino-pyrrolidin-1-yl)-4-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-5-oxo-pentanoic acid
To a solution of 303 mg (S)-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester in 5 ml DMF were added 34 μl DIPEA, 193 mg HATU and 103 mg pyrrolidin-3-yl-carbamic acid butyl ester. After stirring for 12 h the reaction mixture was diluted with ethyl acetate, washed with aqueous LiCl (4%) and saturated aqueous NaHCO3 solution. The solution was concentrated, dissolved in 2 ml dichloromethane and stirred in the presence of 384 μl TFA. After stirring for 4 h the solvents were removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 229 mg MS (ES+): m/e=710.

reactant | (S)-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-pentanedioic acid 5-tert-butyl ester | 303 mg | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C30H39N5O8
reactant | DIPEA | 34 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 193 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | pyrrolidin-3-yl-carbamic acid butyl ester | 103 mg | C(CCC)OC(NC1CNCC1)=O | C9H18N2O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-5-(3-Butoxycarbonylamino-pyrrolidin-1-yl)-4-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-5-oxo-pentanoic acid | C(CCC)OC(=O)NC1CN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C35H47N7O9
